US07112594B2
4-morpholinopiperidine
1-Ethoxycarbonyl-4-piperidone (250 g), morpholine (152.0 g) and p-toluenesulfonic acid (5 g) were added to toluene (600 ml) and the mixture was heated under reflux for 15 hr with dehydration. Then, the solvent was evaporated and the obtained oily component was added to a suspension of ethanol (1L) containing sodium borohydride (58 g) under ice-cooling. The mixture was further stirred at room temperature for 10 hr. The reaction mixture was treated with diluted hydrochloric acid and the solvent was evaporated under reduced pressure. Thereto were added 2-propanol (2 L) and potassium hydroxide (365 g) and the mixture was heated under reflux at 80° C. for 15 hr. The solvent was evaporated under reduced pressure. The obtained oily component was purified by distillation to give the title compound (168 g).

reactant | 1-Ethoxycarbonyl-4-piperidone | 250 g | C(C)OC(=O)N1CCC(CC1)=O | C8H13NO3
reactant | morpholine | 152.0 g | N1CCOCC1 | C4H9NO
catalyst | p-toluenesulfonic acid | 5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 4-morpholinopiperidine | 168 g | O1CCN(CC1)C1CCNCC1 | C9H18N2O
